US09169249B2
Hexahydro-3,3-Dimethylindolizin-7(1H)-One
3,4-Dihydro-2,2-diemthyl-2H-pyrrole (900 mg, 9.3 mmol) was added to acetonitrile (90 ml) in a 250 ml round bottom flask, fitted with water condenser. ZnCl2 (0.5M) in THF (23 ml, 11.6 mmol) was added to the solution and warmed to 60° C. 2-(Trimethylsiloxy)-1,3-butadiene (2.6 g, mmol, 18.4 mmol) was added to the mixture and heated at 90° C. overnight. The solution was cooled to room temperature and diluted with dichloromethane (90 ml) and 1N HCl (90 ml). The two layers were separated, the aqueous layer was basified with NH3 (28%) in H2O, and extracted with dichloromethane. The organic layer was washed with brine and dried with Na2SO4. Solid was removed by filtration and mother liquor was concentrated in vacuo to give 250 mg brown color oil. This oil was further purified by column chromatography (100% ethyl acetate to 95% ethyl acetate: 5% methanol) to give a light yellow oil (170 mg, 11% yield).

reactant | acetonitrile | 90 ml | C(C)#N | C2H3N
reactant | THF | 11.6 mmol, 23 ml | C1CCOC1 | C4H8O
reactant | 2-(Trimethylsiloxy)-1,3-butadiene | 18.4 mmol, 2.6 g | C[Si](OC(=C)C=C)(C)C | C7H14OSi
reactant | dichloromethane | 90 ml | ClCCl | CH2Cl2
solvent | HCl | 1N, 90 ml | Cl | ClH
catalyst | ZnCl2 | 0.5M | [Cl-].[Cl-].[Zn+2]
product | Hexahydro-3,3-Dimethylindolizin-7(1H)-One | 170 mg, 11% yield | CC1(CCC2CC(CCN12)=O)C | C10H17NO
